US07994185B2
Step B: N-(3-(2-(2-Chloropyrimidin-4-yl)acetyl)-2-fluorophenyl)-2,5-difluorobenzenesulfonamide
To a solution of methyl 3-(2,5-difluorophenylsulfonamido)-2-fluorobenzoate (44 g, 128 mmol (from a compilation of batches prepared as described above) in dry THF (500 mL) at −10° C., LiHMDS (1M in THF, 448 mmol, 448 mL) was added dropwise and the solution was allowed to stir for 1 h at 0° C. A solution of 2-chloro-4-methylpyrimidine (19.4 g, 154 mmol) in THF (50 mL) was then added dropwise to the solution of ester and base at 0° C. over 20 min. The solution was allowed to stir 1 h at rt. TLC showed the reaction was complete. The reaction was quenched by addition of the saturated aqueous NH4Cl (300 mL) at 0° C. The reaction mixture was extracted with EtOAc (500 mL×3). The combined organic layers were washed with water and brine successively, dried over Na2SO4, filtered and concentrated under reduced pressure to give the crude product, which was purified by flash column on silica gel, eluting with DCM. This solution was evaporated to obtain a solid. The orange solid was triturated with a small amount of EtOAc and filtered, rinsing with diethyl ether to give the title compound (18.6 g, 33.2% yield). 1H NMR (400 MHz, CDCl3) δ ppm 13.70-13.74 (br, 1H), 8.59 (d, J=5.29 Hz, 0.3H), 8.42 (d, J=5.51 Hz, 1H), 7.75-7.79 (m, 0.3H), 7.51-7.66 (m, 3.6H), 7.12-7.28 (m, 6.6H), 6.91 (d, J=5.51 Hz, 1H), 6.03 (s, 1H), 4.37 (s, 0.6H). MS (ES+): 442 [M+H]+

reactant | methyl 3-(2,5-difluorophenylsulfonamido)-2-fluorobenzoate | FC1=C(C=C(C=C1)F)S(=O)(=O)NC=1C(=C(C(=O)OC)C=CC1)F | C14H10F3NO4S
reactant | LiHMDS | 448 mmol, 1M, 448 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 2-chloro-4-methylpyrimidine | 154 mmol, 19.4 g | ClC1=NC=CC(=N1)C | C5H5ClN2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-(3-(2-(2-Chloropyrimidin-4-yl)acetyl)-2-fluorophenyl)-2,5-difluorobenzenesulfonamide | 18.6 g, 33.2% yield | ClC1=NC=CC(=N1)CC(=O)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C18H11ClF3N3O3S
